### PR TITLE
[Merged by Bors] - feat: port CategoryTheory.Sites.SheafOfTypes

### PR DESCRIPTION
**Pull request by joelriou**
---

Some other files are changed in this PR because I had to fix the projection of `Fan.mk` so that we have `Fan.mk_π_app` (and similarly for `Cofan.mk`).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 1]
```diff
@@ -0,0 +1,1094 @@
...
+lemma FirstObj.ext (z₁ z₂ : FirstObj P R) (h : ∀ (Y : C) (f : Y ⟶ X)
+    (hf : R f), (Pi.π _ ⟨Y, f, hf⟩ : FirstObj P R ⟶  _) z₁ =
+      (Pi.π _ ⟨Y, f, hf⟩ : FirstObj P R ⟶  _) z₂) : z₁ = z₂ := by
+  apply Limits.Types.limit_ext.{max u₁ v₁, u₁}
+  rintro ⟨⟨Y, f, hf⟩⟩
+  exact h Y f hf
+
+variable (P R)
+
+/-- Show that `first_obj` is isomorphic to `FamilyOfElements`. -/
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:818]:
```suggestion
/-- Show that `FirstObj` is isomorphic to `FamilyOfElements`. -/
```

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 2]
```diff
@@ -0,0 +1,1094 @@
...
+  -- See note [dsimp, simp].
+  · intro h
+    ext Y ⟨f, hf⟩
+    convert h f hf
+    rw [yonedaEquiv_naturality]
+    simp [yonedaEquiv]
+    rfl
+#align category_theory.presieve.extension_iff_amalgamation CategoryTheory.Presieve.extension_iff_amalgamation
+
+-- See note [dsimp, simp].
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:517]:
```suggestion
```

**Comment by semorrison** [comment]
bors merge
